US04689070
2-Chloro-N-[[(4,6-dimethylpyrimidin-2-yl)amino]hydroxyiminomethyl]benzenesulfonamide
To a solution of 0.5 g of methyl N'-(2-chlorophenylsulfonyl)-N-(4,6-dimethylpyrimdin-2-yl)carbamimidothioate in 10 ml of tetrahydrofuran was added 0.3 g of hydroxylamine hydrochloride and 0.3 g of sodium acetate. The mixture was stirred at room temperature for 2 hours, whereupon the product was precipitated with ice-water, filtered, washed with water, and dried by suction to afford 0.3 g of the title compound, m.p. 165°-167°. NMR(CDCl3 /DMSO-d6) δ2.6 (s, 6), 6.8 (s, 1), 7.4 (m, 3), 8.2 (m, 1), 10.2 (br, 1), 12.0 (br, 1). m/e: 355 (M+).

reactant | methyl N'-(2-chlorophenylsulfonyl)-N-(4,6-dimethylpyrimdin-2-yl)carbamimidothioate | 0.5 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C(NC1=NC(=CC(=N1)C)C)SC | C14H15ClN4O2S2
reactant | hydroxylamine hydrochloride | 0.3 g | Cl.NO
reactant | sodium acetate | 0.3 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Chloro-N-[[(4,6-dimethylpyrimidin-2-yl)amino]hydroxyiminomethyl]benzenesulfonamide | 0.3 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(=NO)NC1=NC(=CC(=N1)C)C | C13H14ClN5O3S
